US07169814B2
H-Orn(Z)—OMe.HCl (xliv).
To a solution of H-Orn(Z)—OH (1.00 μg, 3.76 mmol) in anhydrous MeOH (25 mL) at 0° C. was slowly added thionyl chloride (1.37 mL, 2.24 g, 18.8 mmol) as to maintain the internal reaction temperature below 10° C. After the addition was complete, the cold bath was removed, and stirring was continued for at rt 18 hours. The reaction was then concentrated under reduced pressure to afford a yellowish solid. Recrystallization with MeOH:EtOAc (1:6) afforded the desired product xliv as a white solid (600 mg, 0.190 mmol). The filtrate and EtOAc washings were cooled for 48 h at −20° C. to provide additional product xliv (177 mg, 0.56 1 mmol). The two batches (total: 777 mg, 2.46 mmol, 65%) were combined for further use.

reactant | H-Orn(Z)—OH | 3.76 mmol, 1.00 μg | N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C13H18N2O4
reactant | thionyl chloride | 18.8 mmol, 1.37 mL, 2.24 g | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 25 mL | CO | CH4O
product | H-Orn(Z)—OMe.HCl | N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)OC.Cl | InChI=1S/C14H20N2O4.ClH/c1-19-13(17)12(15)8-5-9-16-14(18)20-10-11-6-3-2-4-7-11;/h2-4,6-7,12H,5,8-10,15H2,1H3,(H,16,18);1H/t12-;/m0./s1
